datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11]=[CH2:10].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11][CH2:10][CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S-:10])=[CH:62]1>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([S:10][C:61]3=[CH:62][C:63](C(F)(F)F)=[CH:64][C:73](C(F)(F)F)=[CH:72]3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10=20;20,21=21,22;22,23=23"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N+:10]2=[CH:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-2:21]2([P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)C(C3=CC=CC=C3)C2[CH2:20][CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)C=C1 10=20;20,21=21"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>C[C:22]1=[C:21]([CH:20]([CH3:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1.C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10](=[C:11](C1=CC=CC=C1)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62].[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CC[O:72][C:61]([C:10]([C:11](C1=CC=CC=C1)=[O:12])([CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>C[Sn:63](C)(C)[CH2:62][CH+:11][C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1 10,11=10,20"
"C1CC[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)C1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[N:10]1[CH:11]=[CH:12][C:13](=[N+:14]2CCCC2)[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.FC(F)(F)[S:81](/[CH:10]=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:76])[CH:63]=[CH:62]1)(=[O:82])=[O:92]>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:76])[CH:63]=[CH:62]2)[S:81](C(F)(F)F)(=[O:82])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1=CC=C(CN2CC[N:14]3CCN(CC4=CC=CC=C4)[C:62]4=[CH:61][N:10]=[CH:11][C:12]2=[C:13]34)C=C1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[N:10]1[CH:11]=[C:12]2N(CC3=CC=CC=C3)CC[N+:14]3=[C:13]2[C:62](=[CH:61]1)N(CC1=CC=CC=C1)CC3 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([CH:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.Cl[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>Cl[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]([CH:21]=[CH:22][N:23]2CCOCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.C[S+:61](C)[CH-:10][C:71]#[N:72]>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([CH:10]([S+:61](C)C)[C:71]#[N:72])[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10=20
